US09216980B2
Step 1: 3,5-Dimethoxy-4-piperidin-1-ylmethyl-phenol
A solution of 4-hydroxy-2,6-dimethoxybenzaldehyde (0.30 g, 1.65 mmol), piperidine (0.20 mL, 1.98 mmol) and acetic acid (0.47 mL, 8.25 mmol) in methanol (20 mL) was stirred for 20 minutes before addition of sodium cyanoborohydride (0.27 g, 4.30 mmol). The reaction mixture was allowed to stir at ambient temperature for 4 h then loaded onto a 10 g SCX-2 cartridge which was then washed with methanol (30 mL) and then eluted with 2N ammonia in methanol (50 mL). Concentration of the combined basic fractions in vacuo afforded the title compound (220 mg, 53%) as a white solid. 1H NMR (DMSO-D6, 300 MHz): 9.39 (s, 1H), 6.03 (s, 2H), 3.66 (s, 6H), 3.30 (s, 2H), 2.32-2.24 (m, 4H), 1.42-1.35 (m, 4H), 1.34-1.26 (m, 2H). LCMS (Method B): RT=1.90 min, M+H+=252.

reactant | 4-hydroxy-2,6-dimethoxybenzaldehyde | 1.65 mmol, 0.30 g | OC1=CC(=C(C=O)C(=C1)OC)OC | C9H10O4
reactant | piperidine | 1.98 mmol, 0.20 mL | N1CCCCC1 | C5H11N
reactant | acetic acid | 8.25 mmol, 0.47 mL | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 4.30 mmol, 0.27 g | C(#N)[BH3-].[Na+]
solvent | methanol | 20 mL | CO | CH4O
product | 3,5-Dimethoxy-4-piperidin-1-ylmethyl-phenol | 220 mg, 53% | COC=1C=C(C=C(C1CN1CCCCC1)OC)O | C14H21NO3
